US07001904B1
Using an analogous procedure to that described in the first paragraph of the portion of Note [140] immediately above which is concerned with the preparation of starting materials, the mesylate of N-benzylmorpholin-2-ylmethanol (Synth. Commun. 1980, 10, 59–73) was reacted with 4-(2-bromo-4-fluorophenoxy)-7-hydroxy-6-methoxyquinazoline (4.56 g) to give 7-(N-benzylmorpholin-2-ylmethoxy)-4-(2-bromo-4-fluorophenoxy)-6-methoxyquinazoline; Mass Spectrum: M+H+ 554 and 556.

reactant | mesylate | S(C)(=O)(=O)[O-]
reactant | N-benzylmorpholin-2-ylmethanol | C(C1=CC=CC=C1)N1CC(OCC1)CO | C12H17NO2
reactant | 4-(2-bromo-4-fluorophenoxy)-7-hydroxy-6-methoxyquinazoline | 4.56 g | BrC1=C(OC2=NC=NC3=CC(=C(C=C23)OC)O)C=CC(=C1)F | C15H10BrFN2O3
product | 7-(N-benzylmorpholin-2-ylmethoxy)-4-(2-bromo-4-fluorophenoxy)-6-methoxyquinazoline | C(C1=CC=CC=C1)N1CC(OCC1)COC1=C(C=C2C(=NC=NC2=C1)OC1=C(C=C(C=C1)F)Br)OC | C27H25BrFN3O4
